US09145433B2
6-(2-Chloropyridin-3-yl)imidazo[1,2-a]pyridine was synthesized in the similar to 6-(2-chloropyridin-3-yl)benzo[d]thiazole from 6-iodo-imidazo[1,2-a]pyridine (1.0 g, 4.1 mmol), 2-chloro-3-pyridine boronic acid pinacol ester (1.2 g, 5.0 mmol), Pd(PPh3)4 (250 mg, 0.22 mmol) and 2M aq.Na2CO3 (7 mL, 12 mmol) in 1,4-dioxane (50 mL). Workup of the reaction mixture was carried out by sequential steps of concentrating the reaction mixture, extraction with CH2Cl2, drying over MgSO4/Celite®, filtration and concentration. The crude residue was stirred in 50% EtOAc/hexanes (40 mL). The resulting white precipitate was filtered and dried to provide 6-(2-chloropyridin-3-yl)imidazo[1,2-a]pyridine (0.52 g, 55%). 1H NMR (DMSO-d6): δ 8.73 (dd, 1H, J=0.8 and 1.8 Hz), 8.47 (dd, 1H, J=2.0 and 4.7 Hz), 8.00 (dd, 1H, J=2.0 and 7.6 Hz), 7.98 (s, 1H), 7.64 (d, 1H, J=8.8 Hz), 7.63 (s, 1H), 7.56 (dd, 1H, J=4.7 and 7.6 Hz), 7.33 (dd, 1H, J=1.8 and 8.8 Hz), Hz).LCMS: rt 3.16 min (A), purity 99%, MS (m/e) 230 (MH+).

reactant | 6-(2-chloropyridin-3-yl)benzo[d]thiazole | ClC1=NC=CC=C1C1=CC2=C(N=CS2)C=C1 | C12H7ClN2S
reactant | 6-iodo-imidazo[1,2-a]pyridine | 4.1 mmol, 1.0 g | IC=1C=CC=2N(C1)C=CN2 | C7H5IN2
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 5.0 mmol, 1.2 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 12 mmol, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.22 mmol, 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-chloropyridin-3-yl)imidazo[1,2-a]pyridine | 0.52 g, 55% | ClC1=NC=CC=C1C=1C=CC=2N(C1)C=CN2 | C12H8ClN3
